US07700628B2
E. 2-[4-Acetyl-2-(methoxymethoxy)benzoylamino]-N-(5-chloropyridin-2-yl)-benzamide
To a solution of N-(5-chloropyridin-2-yl)-2-[2-(methoxymethoxy)-4-(2-methyl-1,3-dioxolan-2-yl)benzoylamino]benzamide (4.37 g, 8.78 mmol) in THF (150 mL) at 0° C. was added 5 N HCl (28 mL, 140 mmol). The resulting solution was stirred at room temperature for 6 h. The solution was concentrated to the half of its original volume, diluted with H2O (300 mL) and basified with 2 N NaOH (˜pH 9). The solid obtained was filtered, washed with H2O (3×50 mL), and dried to give the expected product (3.82 g, 96%),

reactant | N-(5-chloropyridin-2-yl)-2-[2-(methoxymethoxy)-4-(2-methyl-1,3-dioxolan-2-yl)benzoylamino]benzamide | 8.78 mmol, 4.37 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(C1=C(C=C(C=C1)C1(OCCO1)C)OCOC)=O)=O | C25H24ClN3O6
reactant | HCl | 140 mmol, 5 N, 28 mL | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-[4-Acetyl-2-(methoxymethoxy)benzoylamino]-N-(5-chloropyridin-2-yl)-benzamide | 3.82 g, 96% | C(C)(=O)C1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC=C2)C=C1)OCOC | C23H20ClN3O5
